US04432979
A solution of 90.8 g of 1,2-dihydro-2-oxo-5-(4-pyrimidinyl) nicotinic acid in 900 ml of quinoline is refluxed overnight. The reaction mixture is cooled, poured into 1800 ml of anhydrous ether, stirred for 30 minutes, filtered and the filtered solid washed with 2 l of ether. The solid is dried, recrystallized from 100 ml of hot dimethylformamide and dried to yield 5-(4-pyrimidyl)-2(1H)-pyridone, M.P. >250° C.

reactant | 1,2-dihydro-2-oxo-5-(4-pyrimidinyl) nicotinic acid | 90.8 g | O=C1C(C(=O)O)=CC(=CN1)C1=NC=NC=C1 | C10H7N3O3
reactant | ether | 1800 ml | CCOCC | C4H10O
solvent | quinoline | 900 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
product | 5-(4-pyrimidyl)-2(1H)-pyridone | N1=CN=C(C=C1)C=1C=CC(NC1)=O | C9H7N3O
